US04237136
8.1 g of 2-amino-5-(β-phenylethyl)-1,3,4-thiadiazole are heated with 6.8 g of acetylene dicarboxylic acid diethyl ester in 100 ml of ethanol until a clear solution has formed. After standing overnight, the solution is concentrated by evaporation to dryness. The residue crystallises on triturating with ether. 2-(β-Phenylethyl)-7H-1,3,4-thiadiazolo-[3,2-a]-pyrimidin-7-one-5-carboxylic acid ethyl ester melting at 95° to 98° C. is thus obtained.

reactant | 2-amino-5-(β-phenylethyl)-1,3,4-thiadiazole | 8.1 g | NC=1SC(=NN1)CCC1=CC=CC=C1 | C10H11N3S
reactant | acetylene dicarboxylic acid diethyl ester | 6.8 g | C(C)OC(=O)C#CC(=O)OCC | C8H10O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(β-Phenylethyl)-7H-1,3,4-thiadiazolo-[3,2-a]-pyrimidin-7-one-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(N=C2N1N=C(S2)CCC2=CC=CC=C2)=O | C16H15N3O3S
